US07635715B2
Step C: Preparation of 2-(3,4-Dichlorophenyl)-2-methylpropanoic acid
To methyl 2-(3,4-dichlorophenyl)-2-methylpropanoate (22.03 g, 89.1 mmol) was added THF/water (4:1) (178 mL) and lithium hydroxide hydrate (22.4 g, 535 mmol). The reaction was then stirred at 50° C. for 3 days. The reaction mixture was acidified with 3N HCl, diluted with 200 mL of diethyl ether, added to a separatory funnel, partitioned with water, washed 2 times with 100 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound which was used without further purification. MS (m/z)=233 (M+H)+.

reactant | methyl 2-(3,4-dichlorophenyl)-2-methylpropanoate | 89.1 mmol, 22.03 g | ClC=1C=C(C=CC1Cl)C(C(=O)OC)(C)C | C11H12Cl2O2
reactant | THF water | 178 mL | C1CCOC1.O
reactant | lithium hydroxide hydrate | 535 mmol, 22.4 g | O.[OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-(3,4-Dichlorophenyl)-2-methylpropanoic acid | ClC=1C=C(C=CC1Cl)C(C(=O)O)(C)C | C10H10Cl2O2
